US06391874B1
5-(4-(1-Benzyl-1H-indazol-5-ylamino)quinazolin-6-yl)-furan-2-carbaldehyde hydrochloride
(1-Benzyl-1H-indazol-5-yl)-(6-(5-(1,3)-dioxolan-2-yl-furan-2-yl)-quinazolin-4-yl)amine (2.0 g) and hydrochloric acid (2N, 50 ml) were stirred in THF (20 ml) for 16 hr. The resulting precipitate was filtered, washed with water and dried at 60° C. in vacuo to give the product as a yellow solid (1.80 g, 3.73 g, 91%); δH [2H6]-DMSO 12.30 (1H, s), 9.79 (1H, s), 9.62 (1H, s), 8.85 (1H, s), 8.62 (1H, m), 8.31 (1H, s), 8.19 (1H, m), 8.10 (1H, d), 7.90 (2H, m), 7.78 (2H, m), 7.40 (5H, m), 5.80 (2H, s).

reactant | (1-Benzyl-1H-indazol-5-yl)-(6-(5-(1,3)-dioxolan-2-yl-furan-2-yl)-quinazolin-4-yl)amine | 2.0 g | C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC=C(C=C12)C=1OC(=CC1)C1OCCO1 | C29H23N5O3
reactant | hydrochloric acid | 2N, 50 ml | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 5-(4-(1-Benzyl-1H-indazol-5-ylamino)quinazolin-6-yl)-furan-2-carbaldehyde hydrochloride | 1.80 g, 91% | Cl.C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC=C(C=C12)C1=CC=C(O1)C=O | InChI=1S/C27H19N5O2.ClH/c33-16-22-8-11-26(34-22)19-6-9-24-23(13-19)27(29-17-28-24)31-21-7-10-25-20(12-21)14-30-32(25)15-18-4-2-1-3-5-18;/h1-14,16-17H,15H2,(H,28,29,31);1H
